US04478842
To a mixture of 4.17 g of 3-methyl-2-(3-pyridyl)indole, 0.64 g of tetra-n-butyl ammonium bromide and 1.2 g of powdered KOH in 500 ml of acetonitrile, while stirring at room temperature under nitrogen, is added 5.06 g of ethyl p-(2-bromoethoxy)benzoate [for preparation see U.S. Pat. No. 2,790,825 (1957)]. The suspension is stirred for five days. After filtration to remove KBr, the filtrate is concentrated to an oil which is dissolved in ethyl acetate and extracted with 3 N HCl. The acid layer is separated and treated with 3 N NaOH. This suspension is extracted with ethyl acetate (3×100 ml) and the organic extract is separated, dried over MgSO4, and concentrated to give as an oil 1-[2-(4-ethoxycarbonylphenoxy)ethyl]-2-(3-pyridyl)-3-methylindole.

reactant | 3-methyl-2-(3-pyridyl)indole | 4.17 g | CC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C14H12N2
reactant | KOH | 1.2 g | [OH-].[K+]
reactant | ethyl p-(2-bromoethoxy)benzoate | 5.06 g | BrCCOC1=CC=C(C(=O)OCC)C=C1 | C11H13BrO3
catalyst | tetra-n-butyl ammonium bromide | 0.64 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 1-[2-(4-ethoxycarbonylphenoxy)ethyl]-2-(3-pyridyl)-3-methylindole | C(C)OC(=O)C1=CC=C(OCCN2C(=C(C3=CC=CC=C23)C)C=2C=NC=CC2)C=C1 | C25H24N2O3
